### PR TITLE
[Merged by Bors] - feat: Ionescu-Tulcea theorem

### PR DESCRIPTION
**Pull request by EtienneC30**
This PR proves Ionescu-Tulcea theorem: given a family of Markov kernels `κ : (n : ℕ) → Kernel (Π i : Iic n, X i) (X (n + 1))`, one can construct a Markov kernel `η : Kernel (Π i : Iic a, X i) (Π n, X n)` whose restriction to `Π i : Iic n, X i` is given by the composition of the kernels.

---

- [x] depends on: #22218
- [x] depends on: #22381
- [x] depends on: #22467
- [x] depends on: #22469
- [x] depends on: #22470
- [x] depends on: #22637

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Kernel/IonescuTulcea/Traj.lean [hunk 1]
```diff
@@ -0,0 +1,757 @@
...
+/-!
+# Ionescu-Tulcea theorem
+
+This file proves the *Ionescu-Tulcea theorem*. The idea of the statement is as follows:
+consider a family of kernels `κ : (n : ℕ) → Kernel (Π i : Iic n, X i) (X (n + 1))`.
+One can interpret `κ n` as a kernel which takes as an input the trajectory of a point started in
+`X 0` and moving `X 0 → X 1 → X 2 → ... → X n` and which outputs the distribution of the next
+position of the point in `X (n + 1)`. If `a b : ℕ` and `a < b`, we can compose the kernels,
+and `κ a ⊗ₖ κ (a + 1) ⊗ₖ ... ⊗ₖ κ b` will take the trajectory up to time `a` as input and outputs
+the distrbution of the trajectory on `X (a + 1) × ... × X (b + 1)`.
```
Comment (RemyDegenne) [inline Mathlib/Probability/Kernel/IonescuTulcea/Traj.lean:23]:
```suggestion
the distribution of the trajectory on `X (a + 1) × ... × X (b + 1)`.
```

File: Mathlib/Probability/Kernel/IonescuTulcea/Traj.lean [hunk 2]
```diff
@@ -0,0 +1,757 @@
...
+open Filter Finset Function MeasurableEquiv MeasurableSpace MeasureTheory Preorder ProbabilityTheory
+
+open scoped ENNReal Topology
+
+variable {X : ℕ → Type*}
+
+/-- Gluing `Iic a` and `Ioi a` into `ℕ`, version as a measurable equivalence
+on dependent functions. -/
+def MeasurableEquiv.IicProdIoi [∀ n, MeasurableSpace (X n)] (a : ℕ) :
+    ((Π i : Iic a, X i) × ((i : Set.Ioi a) → X i)) ≃ᵐ (Π n, X n) where
```
Comment (RemyDegenne) [inline Mathlib/Probability/Kernel/IonescuTulcea/Traj.lean:84]: You use two different notations for product spaces on the same line. Let's use always the same one.
```suggestion
    ((Π i : Iic a, X i) × (Π i : Set.Ioi a, X i)) ≃ᵐ Π n, X n where
```

**Review by RemyDegenne — COMMENTED** [review]
Can you create a new file for the measurable equivalences on intervals (in the same IonescuTulcea folder)? Please make a new PR with that file, and move the `Maps` section of PartialTraj to the new file as well.

File: Mathlib/Probability/Kernel/IonescuTulcea/Traj.lean [hunk 3]
```diff
@@ -0,0 +1,757 @@
...
+  simp only [update, updateFinset, mem_Iic, F]
+  split_ifs with h1 h2 <;> try rfl
+  rw [mem_coe, mem_Iic] at hi
+  omega
+
+/-- The indicator of a cylinder only depends on the variables whose the cylinder depends on. -/
+theorem dependsOn_cylinder_indicator {ι : Type*} {α : ι → Type*} {I : Finset ι}
+    (S : Set ((i : I) → α i)) :
+    DependsOn ((cylinder I S).indicator (1 : ((Π i, α i) → ℝ≥0∞))) I :=
+  fun x y hxy ↦ Set.indicator_const_eq_indicator_const (by simp [restrict_def, hxy])
```
Comment (RemyDegenne) [inline Mathlib/Probability/Kernel/IonescuTulcea/Traj.lean:361]: If the imports allow moving that lemma to an earlier file, please do so.

File: Mathlib/Probability/Kernel/IonescuTulcea/Traj.lean [hunk 4]
```diff
@@ -0,0 +1,757 @@
...
+lemma traj_map_frestrictLe_of_le {a b : ℕ} (hab : a ≤ b) :
+    (traj κ b).map (frestrictLe a) =
+      deterministic (frestrictLe₂ hab) (measurable_frestrictLe₂ _) := by
+  rw [traj_map_frestrictLe, partialTraj_le]
+
+/-- To check that `η = traj κ a` it is enough to show that the restriction of `η` to variables `≤ b`
+is `partialTraj κ a b` for any `b ≥ n`. -/
+theorem eq_traj' {a : ℕ} (n : ℕ) (η : Kernel (Π i : Iic a, X i) (Π n, X n))
+    (hη : ∀ b ≥ n, η.map (frestrictLe b) = partialTraj κ a b) : η = traj κ a := by
+  ext1 x
```
Comment (RemyDegenne) [inline Mathlib/Probability/Kernel/IonescuTulcea/Traj.lean:572]: `ext1` is an implementation detail for `ext`. Only `ext` should be used. Use `ext x : 1` if you want to limit the depth (but it's not useful here).
```suggestion
  ext x
```

File: Mathlib/Probability/Kernel/IonescuTulcea/Traj.lean [hunk 5]
```diff
@@ -0,0 +1,757 @@
...
+end definition
+
+section basic
+
+lemma traj_apply (a : ℕ) (x : Π i : Iic a, X i) : traj κ a x = trajFun κ a x := rfl
+
+instance (a : ℕ) : IsMarkovKernel (traj κ a) := ⟨fun _ ↦ isProbabilityMeasure_trajFun ..⟩
+
+lemma traj_map_frestrictLe (a b : ℕ) : (traj κ a).map (frestrictLe b) = partialTraj κ a b := by
+  ext1 x
```
Comment (RemyDegenne) [inline Mathlib/Probability/Kernel/IonescuTulcea/Traj.lean:555]:
```suggestion
  ext x
```

File: Mathlib/Probability/Kernel/IonescuTulcea/Traj.lean [hunk 6]
```diff
@@ -0,0 +1,757 @@
...
+    simp_rw [Function.comp_apply]
+    rw [← setIntegral_map mt i_f'.1, ← map_apply, traj_map_frestrictLe,
+      setIntegral_traj_partialTraj hab i_f mt]
+    all_goals fun_prop
+  · exact (i_f'.1.comp_ae_measurable' (measurable_frestrictLe b).aemeasurable)
+
+
+variable (κ)
+
+theorem condExp_traj' {a b c : ℕ} (hab : a ≤ b) (hbc : b ≤ c)
```
Comment (RemyDegenne) [inline Mathlib/Probability/Kernel/IonescuTulcea/Traj.lean:737]:
```suggestion
variable (κ) in
theorem condExp_traj' {a b c : ℕ} (hab : a ≤ b) (hbc : b ≤ c)
```
In case we add lemmas below in later PRs.

File: Mathlib/Probability/Kernel/IonescuTulcea/Traj.lean (hunk 4 above)
Comment (EtienneC30) [reply Mathlib/Probability/Kernel/IonescuTulcea/Traj.lean:552]: I didn't know about that, thanks.

File: Mathlib/Probability/Kernel/IonescuTulcea/Traj.lean [hunk 7]
```diff
@@ -0,0 +1,717 @@
...
+  rw [Measure.map_map, restrict₂_comp_restrict₂,
+    ← restrict₂_comp_restrict₂ J.subset_Iic_sup_id (Iic_subset_Iic.2 sls), ← Measure.map_map,
+    ← frestrictLe₂, h (J.sup id) (I.sup id) sls]
+  all_goals fun_prop
+
+end MeasureTheory
+
+end ProjectiveFamily
+
+variable (κ : (n : ℕ) → Kernel (Π i : Iic n, X i) (X (n + 1))) [∀ n, IsMarkovKernel (κ n)]
```
Comment (RemyDegenne) [inline Mathlib/Probability/Kernel/IonescuTulcea/Traj.lean:201]: Here you are declaring an explicit `κ` for the whole file. I see many applications of your lemmas in which you use `_` for that argument. That make me think that you should rather turn it into an implicit argument and switch to explicit only where it makes sense.

File: Mathlib/Probability/Kernel/IonescuTulcea/Traj.lean [hunk 8]
```diff
@@ -0,0 +1,717 @@
...
+  exact hf.comp
+
+variable [NormedSpace ℝ E]
+
+variable {κ} in
+/-- When computing `∫ x, f x ∂traj κ n x₀`, because the trajectory up to time `n` is
+determined by `x₀` we can replace `x` by `updateFinset x _ x₀`. -/
+theorem integral_traj {a : ℕ} (x₀ : Π i : Iic a, X i) {f : (Π n, X n) → E}
+    (mf : AEStronglyMeasurable f (traj κ a x₀)) :
+    ∫ x, f x ∂traj κ a x₀ = ∫ x, f (updateFinset x _ x₀) ∂traj κ a x₀ := by
```
Comment (RemyDegenne) [inline Mathlib/Probability/Kernel/IonescuTulcea/Traj.lean:611]: Let's make that more readable:
```suggestion
/-- When computing `∫ x, f x ∂traj κ n x₀`, because the trajectory up to time `n` is
determined by `x₀` we can replace `x` by `updateFinset x (Iic a) x₀`. -/
theorem integral_traj {a : ℕ} (x₀ : Π i : Iic a, X i) {f : (Π n, X n) → E}
    (mf : AEStronglyMeasurable f (traj κ a x₀)) :
    ∫ x, f x ∂traj κ a x₀ = ∫ x, f (updateFinset x (Iic a) x₀) ∂traj κ a x₀ := by
```
And same suggestion in every statement where those appear. It's fine if you omit the finset in proofs.

File: Mathlib/Probability/Kernel/IonescuTulcea/Traj.lean [hunk 9]
```diff
@@ -0,0 +1,717 @@
...
+  refine ae_eq_condExp_of_forall_setIntegral_eq (piLE.le _) i_f
+    (fun s _ _ ↦ i_f'.comp_aemeasurable (measurable_frestrictLe b).aemeasurable |>.integrableOn)
+    ?_ ?_ |>.symm <;> rw [piLE_eq_comap_frestrictLe]
+  · rintro - ⟨t, mt, rfl⟩ -
+    simp_rw [Function.comp_apply]
+    rw [← setIntegral_map mt i_f'.1, ← map_apply, traj_map_frestrictLe,
+      setIntegral_traj_partialTraj hab i_f mt]
+    all_goals fun_prop
+  · exact (i_f'.1.comp_ae_measurable' (measurable_frestrictLe b).aemeasurable)
+
```
Comment (RemyDegenne) [inline Mathlib/Probability/Kernel/IonescuTulcea/Traj.lean:694]:
```suggestion
```

**Review by RemyDegenne — APPROVED** [review]
This is great!
Thanks for all the comments you put in the long proofs. They really help.
bors d+

**Review by sgouezel — COMMENTED** [review]
Great!
